US05424183
A mixture containing methyl 4-hydroxybenzoate (45.6 g), octadecylbromide (100 g), and potassium carbonate (41.4 g) in 2-butanone (200 ml) was heated at reflux for 16 hours. The solvent was then removed until 125 ml of 2-butanone had been collected. While it was still warm, the remaining material was poured into methanol (400 ml). The product was filtered and recrystallized from 2000 ml of methanol to give methyl 4-octadecyloxybenzoate (55 g).

reactant | methyl 4-hydroxybenzoate | 45.6 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | octadecylbromide | 100 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | potassium carbonate | 41.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | methyl 4-octadecyloxybenzoate | 55 g | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C26H44O3
